US04081552
5. 3', 4'-dichloro-5-methoxyvalerophenone O-(2-aminoethyl) oxime hydrochloride
A mixture of 14 mmol (3.65 g) of 3', 4'-dichloro-5-methoxyvalerophenone, 14 mmol (2.1 g) of 2-aminooxyethylamine dihydrochloride, 7 ml of pyridine and 14 ml of absolute ethanol was refluxed for 2 hours. The reaction mixture was then further processes as described in Example 4. After crystallization from a mixture of ether and petroleum ether (boiling point 40°-60° C) the above entitled compound was obtained with a melting point of 93°-94° C.

reactant | 3', 4'-dichloro-5-methoxyvalerophenone | 14 mmol, 3.65 g | ClC=1C=C(C=CC1Cl)C(CCCCOC)=O | C12H14Cl2O2
reactant | 2-aminooxyethylamine dihydrochloride | 14 mmol, 2.1 g | Cl.Cl.NOCCN
reactant | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 14 ml | C(C)O | C2H6O
product | 3', 4'-dichloro-5-methoxyvalerophenone O-(2-aminoethyl) oxime hydrochloride | Cl.NCCON=C(CCCCOC)C1=CC(=C(C=C1)Cl)Cl | InChI=1S/C14H20Cl2N2O2.ClH/c1-19-8-3-2-4-14(18-20-9-7-17)11-5-6-12(15)13(16)10-11;/h5-6,10H,2-4,7-9,17H2,1H3;1H
